US07399759B2
6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxamide
A mixture of methyl thiosalicylate (1.1 g, 6.4 mmol), 6-cyano-2-pyridinecarboxamide (0.47 g, 3.1 mmol), triethylamine (1.0 ml, 7.1 mmol) and toluene (3 ml) was refluxed for 6 hrs as described in Example. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-ethanol to give the titled compound (0.63 g, 70%).

reactant | methyl thiosalicylate | 6.4 mmol, 1.1 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 6-cyano-2-pyridinecarboxamide | 3.1 mmol, 0.47 g | C(#N)C1=CC=CC(=N1)C(=O)N | C7H5N3O
reactant | triethylamine | 7.1 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxamide | 0.63 g, 70% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)C(=O)N | C14H9N3O2S
